* C:\Users\eLab.DESKTOP-0F5BO84\Desktop\surya\50wamp\main.asc
* Generated by LTspice 24.1.9 for Windows.
Q1 N007 N010 0 0 Qtip31a
Q2 N009 N003 VCC 0 Qtip32a
X§U1 Pulse1 out1 VCC 0 TC4420_DRV_NONINV
V2 Pulse1 0 PULSE(0 5 0 1u 1u 100u 200u)
Q3 N009 N011 0 0 Qtip31a
Q4 N007 N002 VCC 0 Qtip32a
D1 N007 VCC D
D2 0 N007 D
D3 0 N009 D
D4 N009 VCC D
R3 N004 N003 100
R4 out1 N011 100
R5 N010 out2 100
R6 N002 N001 100
V3 VCC 0 25
X§U2 Pulse2 out2 VCC 0 TC4420_DRV_NONINV
Q5 N001 N005 0 0 NPN
R1 VCC N001 100
R7 N005 out1 1k
Q6 N004 N006 0 0 NPN
R8 VCC N004 100
R9 N006 out2 1k
R2 N008 N007 8
L1 N009 N008 0.5m
Q7 Pulse2 P001 0 0 NPN
R10 P001 Pulse1 10k
R11 VDD Pulse2 1k
V1 VDD 0 5
C1 NC_01 0 100n
.model D D
.lib C:\Users\eLab.DESKTOP-0F5BO84\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\eLab.DESKTOP-0F5BO84\AppData\Local\LTspice\lib\cmp\standard.bjt
.include tip31a.txt
.include tip32a.txt
.tran 0 10m 1m
.lib C:\Users\eLab.DESKTOP-0F5BO84\Desktop\surya\50wamp\tc4420.txt
.backanno
.end
